US06107291
3-Hydroxymethyl-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid hydroxyamide was synthesized from Acetic acid 2-hydroxycarbamoyl-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepin-3-ylmethyl ester in the same manner as the procedures used for the preparation of 3-Hydroxymethyl-1-(4-methoxybenzenesulfonyl)-azepane-2-carboxylic acid hydroxamide: MS (M-H)- =355.

reactant | Acetic acid 2-hydroxycarbamoyl-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepin-3-ylmethyl ester | ONC(=O)C1N(CC=CCC1COC(C)=O)S(=O)(=O)C1=CC=C(C=C1)OC | C17H22N2O7S
reactant | 3-Hydroxymethyl-1-(4-methoxybenzenesulfonyl)-azepane-2-carboxylic acid | OCC1C(N(CCCC1)S(=O)(=O)C1=CC=C(C=C1)OC)C(=O)O | C15H21NO6S
product | 3-Hydroxymethyl-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid hydroxyamide | ONC(=O)C1N(CC=CCC1CO)S(=O)(=O)C1=CC=C(C=C1)OC | C15H20N2O6S
